US05736539
4-[2(R)-Amino-3-mercaptopropyl]-2(S)-n-butyl-1-(2,3-dimethylbenzoyl)piperazine dihydrochloride
The title compound was prepared according to the procedure described in Example 1, Step E except using 4-[2(R)-tert-butoxycarbonylamino-3-triphenylmethylthiopropyl]-2-(S)n-butyl-1-(2,3-dimethylbenzoyl)piperazine (1.28 g, 1.81 mmol), triethylsilane (1.16 mL, 7.24 mmol), and trifluoroacetic acid (8 mL) in dichloromethane (16 mL). The crude product was purified by preparative HPLC (gradient: 100% Solvent A to 50% Solvent A/50% Solvent B). After ion exchange and lyophilization, the title compound was obtained as a white powder (0.127 g).

reactant | 4-[2(R)-tert-butoxycarbonylamino-3-triphenylmethylthiopropyl]-2-(S)n-butyl-1-(2,3-dimethylbenzoyl)piperazine | 1.81 mmol, 1.28 g | C(C)(C)(C)OC(=O)N[C@H](CN1C[C@@H](N(CC1)C(C1=C(C(=CC=C1)C)C)=O)CCCC)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H55N3O3S
reactant | triethylsilane | 7.24 mmol, 1.16 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | 4-[2(R)-Amino-3-mercaptopropyl]-2(S)-n-butyl-1-(2,3-dimethylbenzoyl)piperazine dihydrochloride | Cl.Cl.N[C@H](CN1C[C@@H](N(CC1)C(C1=C(C(=CC=C1)C)C)=O)CCCC)CS | InChI=1S/C20H33N3OS.2ClH/c1-4-5-8-18-13-22(12-17(21)14-25)10-11-23(18)20(24)19-9-6-7-15(2)16(19)3;;/h6-7,9,17-18,25H,4-5,8,10-14,21H2,1-3H3;2*1H/t17-,18+;;/m1../s1
